US04296114
1,2-Dihydro-3-methyl-1-(4-dimethylaminophenyl)quinoxalin-2-one
Preparation as in Example 1 but using N-(4-dimethylaminophenyl)benzene-1,2-diamine and ethyl pyruvate gave the title compound mp 230°-231° C.

reactant | N-(4-dimethylaminophenyl)benzene-1,2-diamine | CN(C1=CC=C(C=C1)NC=1C(=CC=CC1)N)C | C14H17N3
reactant | ethyl pyruvate | C(C(=O)C)(=O)OCC | C5H8O3
product | 1,2-Dihydro-3-methyl-1-(4-dimethylaminophenyl)quinoxalin-2-one | CC=1C(N(C2=CC=CC=C2N1)C1=CC=C(C=C1)N(C)C)=O | C17H17N3O
